US08003654B2
23) Synthesis of 2-[(pyridin-2-ylmethyl)-amino]-ethanol
prepared as 2-[(6-methyl-pyridin-2-ylmethyl)-amino]-ethanol but reaction with pyridine-2-carboxaldehyde

reactant | 2-[(6-methyl-pyridin-2-ylmethyl)-amino]-ethanol | CC1=CC=CC(=N1)CNCCO | C9H14N2O
reactant | pyridine-2-carboxaldehyde | N1=C(C=CC=C1)C=O | C6H5NO
product | 2-[(pyridin-2-ylmethyl)-amino]-ethanol | N1=C(C=CC=C1)CNCCO | C8H12N2O
